US07786108B2
To a solution of (S)-9-[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester (1.17 mmol) in dichloromethane (20 mL), add methanol (5.85 mmol) and triphenylphosphine (3.51 mmol). To this solution, add diethyl azodicarboxylate (3.51 mmol) dropwise at room temperature. After stirring for 12 h, remove the solvent under vacuum and chromatograph the intermediate over silica gel eluting with ethyl acetate/hexane (2-35%) to afford (S)-9-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester as a colorless oil. To this intermediate in dichloromethane (5 mL), add TFA (2 mL). After stirring for 2 h, quench the reaction with aqueous sodium carbonate (5 mL) and dilute with dichloromethane (10 mL). Separate the organic portion, dry over sodium sulfate, filter, and remove the solvent under vacuum. This provides the title compound as a crude oil that is further used without purification.

reactant | (S)-9-[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | 1.17 mmol | C(C)(C)(C)OC(=O)N1CCC[C@@H](C2=CC=3COCC3C=C21)N(C=2N=NNN2)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C27H28F6N6O3
reactant | methanol | 5.85 mmol | CO | CH4O
reactant | triphenylphosphine | 3.51 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.51 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-9-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC[C@@H](C2=CC=3COCC3C=C21)N(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C28H30F6N6O3
